US04672101
5-(3,4-dihydroxyphenyl)hydantoin
One mole (148.12 g) of α-methoxyhydantoic acid, 1.25 moles (137.64 g) of catechol, 1 mole (60.06 g) of urea and 300 ml of concentrated HCl (36 percent volume) were placed into the 2-liter flask of Preparation 1, and are stirred at 60° C. to 65° C. for 18 hours. The heterogeneous solution is filtered and is recrystallized from ethanol to give the title compound, with a melting point of 212° C.-214° C., in a yield of 44 percent.

reactant | α-methoxyhydantoic acid | One mole, 148.12 g | COC(C(=O)O)NC(=O)N | C4H8N2O4
reactant | catechol | 1.25 moles, 137.64 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | urea | 1 mole, 60.06 g | NC(=O)N | CH4N2O
solvent | HCl | 300 ml | Cl | ClH
product | 5-(3,4-dihydroxyphenyl)hydantoin | yield of 44 percent | OC=1C=C(C=CC1O)C1C(NC(N1)=O)=O | C9H8N2O4
